US09353107B2
Step-i: tert-butyl 4-(3-bromobenzylidene)piperidine-1-carboxylate
The mixture of 1-bromo-3-(bromomethyl)benzene (6.2 g, 24.8 mmol) and triethyl phosphite (4.53 g, 27.28 mmol) was heated at 90° C. for 12 hours, cooled to 0° C., added DME (40 ml) and tert-butyl 4-oxopiperidine-1-carboxylate (5.73 g, 28.8 mmol) and sodium hydride (1.19 g, 49.6 mmol) and stirred at RT for 2-3 hours. Diluted with water and extracted with ether to afford 4.5 g (51.5% yield) of the titled product after purification with (60/120 silica gel) column chromatography using 10% ethyl acetate in hexane as eluent. MS: m/z=353.2 (M+1).

reactant | 1-bromo-3-(bromomethyl)benzene | 24.8 mmol, 6.2 g | BrC1=CC(=CC=C1)CBr | C7H6Br2
reactant | triethyl phosphite | 27.28 mmol, 4.53 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 28.8 mmol, 5.73 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium hydride | 49.6 mmol, 1.19 g | [H-].[Na+]
solvent | water | O | H2O
solvent | DME | 40 ml | COCCOC | C4H10O2
product | tert-butyl 4-(3-bromobenzylidene)piperidine-1-carboxylate | 4.5 g, 51.5% yield | BrC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C17H22BrNO2
